US06706732B1
(±)-7-(2-chloro-5-fluorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride (8.8 g) was suspended in methanol (100 ml) and treated dropwise with a 28% solution of sodium methoxide in methanol (8.9 g) The mixture was concentrated under reduced pressure, and the result was washed with water and dried to obtain (±)-7-(2-chloro-5-fluorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline (7.1 g).

reactant | (±)-7-(2-chloro-5-fluorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline hydrochloride | 8.8 g | Cl.ClC1=C(C=C(C=C1)F)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 8.9 g | CO | CH4O
product | (±)-7-(2-chloro-5-fluorophenyl)-5-guanidinoimino-4-methyl-5,6,7,8-tetrahydroquinoline | 7.1 g | ClC1=C(C=C(C=C1)F)C1CC(C=2C(=CC=NC2C1)C)=NNC(=N)N | C17H17ClFN5
